US07326791B2
4-benzoyl-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methylbenzamide
Prepared analogously to Example 1g from 4-benzoyl-3-methylbenzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 91%; Rf value: 0.54 (silica gel: dichloromethane/ethanol=9:1); C24H20ClN3O2 (417.894); mass spectrum: (M+H)+=418/420 (chlorine isotope) and (M−H)−=416/418 (chlorine isotope).

reactant | 4-benzoyl-3-methylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1)C | C15H12O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 4-benzoyl-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methylbenzamide | Yield: 91% | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)C | C24H20ClN3O2
